US06969725B2
g] (S)-2-Ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid
To a solution of (S)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester (100 mg, 0.24 mmol) in THF/methanol 2/1 (1.5 ml) was added a 1 N aqueous LiOH solution (1.4 ml, 1.4 mmol). The reaction mixture was stirred for 1.5 h at ambient temperature, neutralized with 1 N aqueous HCl solution under ice cooling and concentrated under reduced pressure. The residue was dissolved in 1 N HCl/ice water 1/1 and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (88 mg, 0.21 mmol, 91%) as off-white solid, which was crystalized from dichloromethane/hexane to afford colorless crystals. According to chiral HPLC of the corresponding methyl ester (Chiralcel-ODH), the enantiomeric excess amounts to 98.6%.

reactant | (S)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 0.24 mmol, 100 mg | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)C)C)OCC)=O | C25H29NO5
reactant | LiOH | 1.4 mmol, 1 N, 1.4 ml | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF methanol | 1.5 ml | C1CCOC1.CO
product | (S)-2-Ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-propionic acid | 0.21 mmol, 88 mg, 91% | C(C)O[C@H](C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)C)C | C24H27NO5
